US05877202
t-Butyl [5-fluoro-1-benzoyl-indol-3-yl]-acetate
Prepare by a method similar to Example 116 using t-butyl [5-fluoro-indol-3-yl]-acetate and benzoyl chloride.

reactant | t-butyl [5-fluoro-indol-3-yl]-acetate | FC=1C=C2C(=CNC2=CC1)CC(=O)OC(C)(C)C | C14H16FNO2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | t-Butyl [5-fluoro-1-benzoyl-indol-3-yl]-acetate | FC=1C=C2C(=CN(C2=CC1)C(C1=CC=CC=C1)=O)CC(=O)OC(C)(C)C | C21H20FNO3
